US07960394B2
3,6-Dimethyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example I but starting from 5-methyl-2-aminobenzoic acid, methylamine, 4-anisaldehyde, 1-chloro-3-bromopropane and piperidine.

reactant | 5-methyl-2-aminobenzoic acid | CC=1C=CC(=C(C(=O)O)C1)N | C8H9NO2
reactant | methylamine | CN | CH5N
reactant | 4-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | 1-chloro-3-bromopropane | ClCCCBr | C3H6BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3,6-Dimethyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | CN1C(=NC2=CC=C(C=C2C1=O)C)C1=CC=C(C=C1)OCCCN1CCCCC1 | C24H29N3O2
